US07648989B2
Preparation of 2-(2-Chloro-7-dimethylaminomethyl-naphthalen-1-yl)-acetamide
(2-Chloro-7-dimethylaminomethyl-naphthalen-1-yl)-acetic acid ethyl ester (2.70 g, 8.82 mmol) and formamide (1.17 ml, 29.57 mmol) are dissolved under an atmosphere of argon in dry DMF (25 ml). The solution is heated to 105° C., and NaOMe (1.64 ml of a 5.4 M solution in MeOH, 8.82 mmol) is added dropwise during 10 minutes. After 1 hour at 105° C., TLC analysis indicates complete consumption of starting material. The reaction mixture is cooled to RT, diluted with water, and adjusted to a pH of 6-7 by the addition of 1 M NaHSO4 solution. The mixture is concentrated and purified by FCC (CH2Cl2/EtOH/NH3 conc. 90:9:1) to yield the title compound. 1H NMR (d6-DMSO, 400 MHz): δ 2.01 (s, 6H), 3.48 (s, 3H), 4.02 (s, 3H), 6.9-7.0 (br, 1H), 7.41-7.47 (m, 2H); 7.47-7.85 (br, 1H), 7.75-7.88 (m, 2H), 7.80 (d, J=12.1 Hz, 1H). ES+−MS: 277.3, 279.2 [M+H]+.

reactant | (2-Chloro-7-dimethylaminomethyl-naphthalen-1-yl)-acetic acid ethyl ester | 8.82 mmol, 2.70 g | C(C)OC(CC1=C(C=CC2=CC=C(C=C12)CN(C)C)Cl)=O | C17H20ClNO2
reactant | formamide | 29.57 mmol, 1.17 ml | C(=O)N | CH3NO
reactant | NaOMe | C[O-].[Na+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 2-(2-Chloro-7-dimethylaminomethyl-naphthalen-1-yl)-acetamide | ClC1=C(C2=CC(=CC=C2C=C1)CN(C)C)CC(=O)N | C15H17ClN2O
